Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right hip pain
 
Major Surgical or Invasive Procedure:
Right hip hemiarthroplasty ___ ___

 
History of Present Illness:
___ w/ CHF, provoked PE from hip surgery in ___ on Coumadin s/p 
mechanical fall w/ R femoral neck fx now s/p R hip hemi ___, 
KRod) 
 
Past Medical History:
CHF
Provoked PE from hip surgery in ___ on Coumadin
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
General: alert, oriented, interactive; no acute distress
Chest/resp: non-labored breathing, well-perfused
Abd: non-distended

RLE: incisional dressing c/d/I (changed day of discharge); SILT 
distally; fires TA, ___, ___ well-perfused distally
 
Pertinent Results:
Please see OMR for further pertinent lab data. 

___ 06:22AM BLOOD WBC-9.9 RBC-3.64* Hgb-8.6* Hct-29.1* 
MCV-80* MCH-23.6* MCHC-29.6* RDW-18.8* RDWSD-53.9* Plt ___
___ 11:00PM BLOOD WBC-14.2* RBC-4.51 Hgb-10.7* Hct-35.4 
MCV-79* MCH-23.7* MCHC-30.2* RDW-19.5* RDWSD-52.7* Plt ___
___ 11:00PM BLOOD Glucose-122* UreaN-18 Creat-0.9 Na-143 
K-5.5* Cl-104 HCO3-25 AnGap-14
___ 09:10AM BLOOD Glucose-80 UreaN-15 Creat-0.9 Na-142 
K-4.4 Cl-106 HCO3-22 AnGap-14
___ 06:22AM BLOOD Glucose-78 UreaN-13 Creat-0.9 Na-142 
K-4.3 Cl-105 HCO3-22 AnGap-15
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have Right hip fracture and was admitted to the orthopedic 
surgery service. The patient was taken to the operating room on 
___ for Right hip hemiarthroplasty, which the patient 
tolerated well. For full details of the procedure please see the 
separately dictated operative report. The patient was taken from 
the OR to the PACU in stable condition and after satisfactory 
recovery from anesthesia was transferred to the floor. The 
patient was initially given IV fluids and IV pain medications, 
and progressed to a regular diet and oral medications by POD#1. 
The patient was given ___ antibiotics and 
anticoagulation per routine. The patient's home medications were 
continued throughout this hospitalization. The patient worked 
with ___ who determined that discharge to rehab was appropriate. 
The ___ hospital course was otherwise unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding spontaneously. The patient is WBAT in the 
Right lower extremity, and will be discharged on home Coumadin 
(INR goal ___ managed by PCP ___ @ ___ 
for DVT prophylaxis. The patient will follow up with Dr. 
___ routine. Patient understoo the diagnosis and 
instructions were given regarding expected post-discharge course 
including reasons to call the office or return to the hospital. 
The patient expressed readiness and agreement for discharge to 
rehab.

 
Medications on Admission:
Warfarin unknown dosing
Keflex ___ mg twice daily
Colace
Furosemide 40 mg once daily
Potassium chloride ER 10 mg once daily
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
 Take as directed. Discontinue when no longer needed. Ok to 
taper as tolerated.  
RX *acetaminophen 325 mg 2 tablet(s) by mouth 5 times daily 
while awake Disp #*120 Tablet Refills:*1 
2.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
Use daily as needed for constipation. Hold for diarrhea or loose 
stools.  
RX *bisacodyl 5 mg 2 tablet(s) by mouth daily as needed Disp 
#*10 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
This is a new medication to prevent post-operative constipation. 
Hold for diarrhea or loose stools.  
4.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN Pain 
Take for moderate-severe pain not relieved by Acetaminophen. 
Hold for sedation. Taper as tolerated. 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours prn 
Disp #*30 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY:PRN constipation 
Use daily for constipation not relieved by Senna or Dulcolax. 
Hold for diarrhea/loose stools.  
RX *polyethylene glycol 3350 17 gram 1 packet by mouth daily as 
needed Disp #*10 Packet Refills:*0 
6.  Psyllium Powder 1 PKT PO DAILY:PRN consti 
Take daily as needed for constipation. Hold for diarrhea or 
loose stools.  
7.  Senna 8.6 mg PO BID 
Take as directed. Hold for diarrhea or loose stools.  
RX *sennosides [senna] 8.6 mg 2 tablets by mouth every evening 
Disp #*20 Tablet Refills:*0 
8.  Furosemide 40 mg PO DAILY  
9.  Potassium Chloride 40 mEq PO DAILY  
10.  Warfarin 4 mg PO DAILY16 
RX *warfarin [Coumadin] 5 mg 1 tablet(s) by mouth nightly Disp 
#*7 Tablet Refills:*0 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right hip fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- Weightbearing as tolerated

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Resume your home Coumadin. Follow-up with your primary care 
physician (Dr. ___ @ ___ INR monitoring and 
dose adjustment.

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- Please remain in your dressing and do not change unless it is 
visibly soaked or falling off. 
-You may remove your surgical dressing on POD5. Replace with dry 
sterile dressing and tape/tegaderm. No baths (submerging wound) 
until staples removed. Showers and sponge baths are ok.

DANGER SIGNS:
Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:
- Increasing pain that is not controlled with pain medications
- Increasing redness, swelling, drainage, or other concerning 
changes in your incision
- Persistent or increasing numbness, tingling, or loss of 
sensation
- Fever > 101.4
- Shaking chills
- Chest pain
- Shortness of breath
- Nausea or vomiting with an inability to keep food, liquid, 
medications down
- Any other medical concerns

THIS PATIENT IS EXPECTED TO REQUIRE <30 DAYS OF REHAB

FOLLOW UP:
Please follow up with your Orthopaedic Surgeon, Dr. ___. 
You will have follow up with ___, NP in the 
Orthopaedic Trauma Clinic 14 days post-operation for evaluation. 
Call ___ to schedule appointment upon discharge.

Please follow up with your primary care doctor regarding this 
admission within ___ weeks and for and any new 
medications/refills.

Physical Therapy:
WBAT; ROMAT
Treatments Frequency:
Dressing may be removed on ___. Change with sterile dressing 
and tape/tegaderm. On POD10, ok to leave dressing off. Patient 
may shower/sponge bathe. No baths or swimming until otherwise 
directed at clinic follow-up. 
 
Followup Instructions:
___